US07846956B2
2.23 g of methyl 3-methoxyisoxazole-5-carboxylate was dissolved in 30 ml of ethanol, and 0.60 g of sodium borohydride was then added ice-cooling. The mixture was stirred for 8 hours under ice-cooling. After water was added under ice-cooling, the reaction mixture was concentrated under reduced pressure and then extracted with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate, filtered and then concentrated under reduced pressure. The residue was subjected to silica gel column chromatography to obtain 1.55 g of (3-methoxyisoxazol-5-yl)methanol.

reactant | methyl 3-methoxyisoxazole-5-carboxylate | 2.23 g | COC1=NOC(=C1)C(=O)OC | C6H7NO4
reactant | sodium borohydride | 0.60 g | [BH4-].[Na+]
reactant | water | O | H2O
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | (3-methoxyisoxazol-5-yl)methanol | 1.55 g | COC1=NOC(=C1)CO | C5H7NO3
